US07468371B2
phenyl 5-(3-phenoxy-1-propynyl)-3-thiophenecarboxylate
A mixture of phenyl 5-bromothiophene-3-carboxylate, Example 113 (100 mg, 0.35 mmol), (prop-2-ynyloxy)benzene (93 mg, 0.71 mmol), triphenylphosphine (19 mg, 0.071 mmol), dichlorobis(triphenylphosphine)palladium(II) (12 mg, 0.018 mmol), copper iodide (1 mg, 0.006 mmol) and triethylamine (0.74 mL, 5.30 mmol) in N,N-dimethylformamide (1 mL) was stirred under nitrogen in a heavy walled process vial in a microwave synthesizer at about 120° C. for about 25 minutes. The reaction mixture was concentrated under vacuum and the residue was purified by flash column chromatography on silica gel using hexane/ethyl acetate (2:1) as the mobile phase to provide the desired product. MS (DCI-NH3): m/z 352 (M+NH4)+.

reactant | phenyl 5-bromothiophene-3-carboxylate | BrC1=CC(=CS1)C(=O)OC1=CC=CC=C1 | C11H7BrO2S
reactant | (prop-2-ynyloxy)benzene | 0.71 mmol, 93 mg | C(C#C)OC1=CC=CC=C1 | C9H8O
reactant | triphenylphosphine | 0.071 mmol, 19 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 5.30 mmol, 0.74 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.018 mmol, 12 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.006 mmol, 1 mg | [Cu](I)I
product | phenyl 5-(3-phenoxy-1-propynyl)-3-thiophenecarboxylate | O(C1=CC=CC=C1)CC#CC1=CC(=CS1)C(=O)OC1=CC=CC=C1 | C20H14O3S
